US07132436B2
N-[4-(2-{[(2,4,5-Trichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)pbenyl]acetamide
The title compound was prepared from N-[4-(2-amino-1,3-thiazol-4-yl)phenyl]acetamide (63 mg) and 2,4,5-trichlorobenzenesulfonyl chloride (76 mg) as described in the synthetic METHOD B to give a white-yellow solid (5,0 mg) with purity >90%: MS (pos) m/z 476.3. 478.3.

reactant | N-[4-(2-amino-1,3-thiazol-4-yl)phenyl]acetamide | 63 mg | NC=1SC=C(N1)C1=CC=C(C=C1)NC(C)=O | C11H11N3OS
reactant | 2,4,5-trichlorobenzenesulfonyl chloride | 76 mg | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | N-[4-(2-{[(2,4,5-Trichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)pbenyl]acetamide | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)NC(C)=O | C17H12Cl3N3O3S2
